US07423050B2
(ii) 1H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide
Add aluminum trichloride (106 mg, 0.795 mmol) to a suspension of 1-benzylindol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide (180 mg, 0.398 mmol) in benzene (6 mL) and heat the mixture at reflux for 1.25 hr. Then add another 2 equivalents of aluminum trichloride (108 mg) and continue heating at reflux for an additional 5.5 hr. Cool the reaction mixture to room temperature. Then pour the reaction into ice cold H2O (50 mL) and then dilute with ethyl acetate. Adjusted the pH of the solution to 11 with saturated Na2CO3, separate the layers and extract the aqueous layer with ethyl acetate (3×50 mL). Combined the organic fractions, dry with Na2SO4, filter and concentrate in vacuo. Purify the intermediate by flash chromatography on a silica gel column, eluting with CHCl3/methanol/NH4OH (93:7:1) to obtain the sub-title compound (96 mg, 67%). 1H NMR (CD3OD) δ 8.45 (d, J=8 Hz, 1H), 8.25 (s, 1H), 8.21 (m, 1H), 7.96 (t, J=8 Hz, 1H), 7.72 (d, J=8 Hz, 1H), 7.48 (m, 1H), 7.18-7.27 (m, 2H), 3.90 (m, 1H), 2.94-3.01 (m, 2H), 2.31 (s, 3H), 2.19-2.28 (m, 2H), 1.92-2.02 (m, 2H), 1.71-1.84 (m, 2H). CIMS (Methane) m/z 363 [C21H22N4O2+H]+.

reactant | aluminum trichloride | 0.795 mmol, 106 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1-benzylindol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide | 0.398 mmol, 180 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C28H28N4O2
reactant | aluminum trichloride | 108 mg, 2 equivalents | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide | 96 mg, 67% | N1C=C(C2=CC=CC=C12)C(=O)NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C21H22N4O2
